US06440995B1
(RS)-3-(2-Indan-5-yl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride
The title compound, m.p. 157-160° C., MS: m/e=334 (M+), was prepared from 4-chloro-2-indan-5-yl-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-indan-5-yl-quinoline | ClC1=CC(=NC2=CC=CC=C12)C=1C=C2CCCC2=CC1 | C18H14ClN
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-(2-Indan-5-yl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride | Cl.C1CCC2=CC(=CC=C12)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O | InChI=1S/C21H22N2O2.ClH/c24-13-17(25)12-22-21-11-20(23-19-7-2-1-6-18(19)21)16-9-8-14-4-3-5-15(14)10-16;/h1-2,6-11,17,24-25H,3-5,12-13H2,(H,22,23);1H
